US04329347
6-[4-(4-Fluorophenyl-sulfinyl)-butoxy]-carbostyril
Prepared analogous to Example 123 from 6-[4-(4-fluorophenyl-mercapto)-butoxy]-carbostyril and hydrogen peroxide.

reactant | 6-[4-(4-fluorophenyl-mercapto)-butoxy]-carbostyril | FC1=CC=C(C=C1)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18FNO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(4-Fluorophenyl-sulfinyl)-butoxy]-carbostyril | FC1=CC=C(C=C1)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18FNO3S
